US07071184B2
m. Benzofuran-2-carboxylic acid {(S)-3-methyl-1-[(4S,7R)-7-methyl-3-oxo-1-(pyridine-2-sulfonyl)-azepan-4-ylcarbamoyl]-butyl}-amide
Dess-Martin periodinane (0.077 g, 0.182 mmol) was added to a solution of. Benzofuran-2-carboxylic acid {(S)-1-[(3S,4S,7R)-3-hydroxy-7-methyl-1-(pyridine-2-sulfonyl)-azepan-4-ylcarbamoyl]-3-methyl-butyl}-amide (0.058 g, 0.107 mmol) in CH2Cl2 (10 ml) and was stirred at RT for 1 h. The solution was washed with 10% aq. Na2S2O3, then aq. sat. NaHCO3, then brine. Purification by column chromatography (50% to 80% ethyl acetate/hexanes) gave the title compound (0.056 g, 97%): 1H NMR: 8.72 (m, 1H), 8.0 (d, 1H), 8.92 (dd, 1H), 7.65 (d, 1H), 7.56 (d, 1H), 7.45 (s, 1H), 7.42 (dd, 2H), 7.28 (d, 1H), 7.10 (d, 1H), 5.15 (m, 1H), 4.77 (d, 1H), 4.68 (m, 1H), 4.40 (m, 1H), 3.86 (d, 1H), 2.20–2.08 (m, 2H), 1.78–1.50 (m, 5H), 1.22 (dd, 3H), 0.98 (m, 6H); Electrospray mass spec: M+H+=541.2.

reactant | Dess-Martin periodinane | 0.182 mmol, 0.077 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Benzofuran-2-carboxylic acid {(S)-1-[(3S,4S,7R)-3-hydroxy-7-methyl-1-(pyridine-2-sulfonyl)-azepan-4-ylcarbamoyl]-3-methyl-butyl}-amide | 0.107 mmol, 0.058 g | O[C@H]1CN([C@@H](CC[C@@H]1NC(=O)[C@H](CC(C)C)NC(=O)C=1OC2=C(C1)C=CC=C2)C)S(=O)(=O)C2=NC=CC=C2 | C27H34N4O6S
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | Benzofuran-2-carboxylic acid {(S)-3-methyl-1-[(4S,7R)-7-methyl-3-oxo-1-(pyridine-2-sulfonyl)-azepan-4-ylcarbamoyl]-butyl}-amide | 0.056 g, 97% | CC(C[C@@H](C(N[C@@H]1C(CN([C@@H](CC1)C)S(=O)(=O)C1=NC=CC=C1)=O)=O)NC(=O)C=1OC2=C(C1)C=CC=C2)C | C27H32N4O6S
